US04579854
A mixture of 916 mg of 8-benzyloxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril, 100 mg of 10% palladium-charcoal, 2 ml of 1N hydrochloric acid and 20 ml of tetrahydrofuran is shaken at room temperature at an atmospheric pressure under a hydrogen atmosphere for 2 hours. Insoluble materials are collected by filtration and washed with an aqueous 10% ethanol solution. The filtrate and washings are combined, and the combined solution is concentrated under reduced pressure to remove solvent. The residue is crystallized with a mixture of methanol and ether, and crystalline precipitates are collected by filtration. 623 mg of 8-hydroxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril hydrochloride are obtained as colorless crystals. Yield: 77%

reactant | 8-benzyloxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril | 916 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@@H](CN[C@H](CC1=CC=C(C=C1)OC)C)O | C28H30N2O4
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
catalyst | palladium-charcoal | 100 mg | [Pd] | Pd
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-hydroxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril hydrochloride | 623 mg, Yield: 77% | Cl.OC=1C=CC(=C2C=CC(NC12)=O)[C@@H](CN[C@H](CC1=CC=C(C=C1)OC)C)O | InChI=1S/C21H24N2O4.ClH/c1-13(11-14-3-5-15(27-2)6-4-14)22-12-19(25)16-7-9-18(24)21-17(16)8-10-20(26)23-21;/h3-10,13,19,22,24-25H,11-12H2,1-2H3,(H,23,26);1H/t13-,19+;/m0./s1
